US04212830
To 0.85 gm of magnesium in a thoroughly dried flask equipped with condensor and magnetic stirrer was added 5 mls of anhydrous tetrahydrofuran and 1.06 mls of butyl chloride and 5 mls of dry toluene. This mixture was heated with stirring at 70° C. for about two hours. A solution of 4.44 gms of 1,1-dimethoxy-9-chloro nonane in 50 mls of toluene was added all at once. The temperature was maintained at 75°±5° for one and one quarter hours. The Grignard reagent was decanted into another flask and 3.12 gms of a mixture (approximately 60:40) of 1-chloro-2-pentene and 3-chloro-1-pentene was added. The reaction was maintained at 75°±5° with stirring. The reaction mixture became cloudy within one-half to three-quarters of an hour indicating the initiation of the coupling reaction. This was confirmed by GLC of a hydrolysed aliquot of reaction mixture. The reaction was allowed to continue until a test for Grignard reagent was negative (approximately 2 hours). 50 mls of 3 N hydrochloric acid was then added, the reaction mixture was then stirred and heated at reflux for 1 hour. The aqueous layer was separated, washed two times with toluene. The organic layer and the toluene washes were combined and dried over sodium sulphate. The solvents were removed on the rotary evaporator and the residue was distilled. The majority of the material distilled at 95° at 0.35 torr yielding 2.48 gms of crude 11-tetradecenal. For physical constants see Example 5.

reactant | magnesium | 0.85 gm | [Mg] | Mg
reactant | tetrahydrofuran | 5 mls | O1CCCC1 | C4H8O
reactant | 1,1-dimethoxy-9-chloro nonane | 4.44 gms | COC(CCCCCCCCCl)OC | C11H23ClO2
reactant | hydrochloric acid | 3 N, 50 mls | Cl | ClH
reactant | toluene | 50 mls | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 5 mls | C1(=CC=CC=C1)C | C7H8
solvent | butyl chloride | 1.06 mls | C(CCC)Cl | C4H9Cl
product | 11-tetradecenal | 2.48 gms | C(CCCCCCCCCC=CCC)=O | C14H26O
